US06987104B2
2(S)-hydroxy-3(R)-[2-pyridin-4-yl-pyrrolidine-1-carbonyl)-heptanoic acid hydroxamide (Isomer 1)
The title compound is prepared from 2-(2,2-dimethyl-4-oxo-1,3-dioxolan-5-yl)hexanoic acid B-5 and commercially available 4-pyrrolidin-2-yl-pyridine A-5 according to General Procedure B.

reactant | 2-(2,2-dimethyl-4-oxo-1,3-dioxolan-5-yl)hexanoic acid | CC1(OC(C(O1)=O)C(C(=O)O)CCCC)C | C11H18O5
reactant | 4-pyrrolidin-2-yl-pyridine | N1C(CCC1)C1=CC=NC=C1 | C9H12N2
product | 2(S)-hydroxy-3(R)-[2-pyridin-4-yl-pyrrolidine-1-carbonyl)-heptanoic acid | O[C@H](C(=O)O)[C@@H](CCCC)C(=O)N1C(CCC1)C1=CC=NC=C1 | C17H24N2O4
